US07714004B2
Step 1a: 5-(4-Methoxy-3-methylphenyl)-3-(trifluoromethyl)-1,2,4-thiadiazole
5-Chloro-3-(trifluoromethyl)-1,2,4-thiadiazole (2.26 g, 12.0 mmol) (synthesis described in DE 3228147) was dissolved in 1,2-dimethoxyethane (50 mL) and 4-methoxy-3-methylphenylboronic acid (2.4 g, 14.4 mmol) and tetrakis(triphenylphosphine)palladium (0.1 g, 0.09 mmol) were added. After 1.5 h at rt, Na2CO3 (19.2 mL, 2M aqueous solution) was added and the mixture was stirred for 4 h at 80° C. and for 14h at rt. Water was added and the mixture was extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure. Due to low conversion the crude product was again reacted with 5-chloro-3-(trifluoromethyl)-1,2,4-thiadiazole (2.4 g, 14.4 mmol), tetrakis(triphenylphosphine)palladium (0.1 g, 0.09 mmol) in DME (50 mL) and Na2CO3 (19.2 mL, 2M aqueous solution). After stirring at 80° C. for 16 h, the reaction mixture was cooled and water was added. The mixture was extracted with ethyl acetate, the organic phase dried over MgSO4, filtered and concentrated under reduced pressure. The crude product (3.2 g) had a purity of ˜90% and was used in the next step without further purification.

reactant | 5-Chloro-3-(trifluoromethyl)-1,2,4-thiadiazole | 12.0 mmol, 2.26 g | ClC1=NC(=NS1)C(F)(F)F | C3ClF3N2S
reactant | 4-methoxy-3-methylphenylboronic acid | 14.4 mmol, 2.4 g | COC1=C(C=C(C=C1)B(O)O)C | C8H11BO3
reactant | Water | O | H2O
reactant | 5-chloro-3-(trifluoromethyl)-1,2,4-thiadiazole | 14.4 mmol, 2.4 g | ClC1=NC(=NS1)C(F)(F)F | C3ClF3N2S
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 19.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Na2CO3 | 2M, 19.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-(4-Methoxy-3-methylphenyl)-3-(trifluoromethyl)-1,2,4-thiadiazole | COC1=C(C=C(C=C1)C1=NC(=NS1)C(F)(F)F)C | C11H9F3N2OS
